US06503907B2
To 14.7 g (0.1 mol) 5-methoxyindole in 100 ml DMSO were added 32.6 ml (0.3 mol) 1-bromo-4-fluorobenzene, 1.06 g (0.04 mol) 18-crown-6 and 10.92 g (60 mmol) KF on alox. The suspension was heated to 120° C. for 48 h. Additional 21.7 ml (0.2 mol) 1-bromo-4-fluorobenzene, 1.06 g (0.04 mol) 18-crown-6 and 10.92 g (60 mmol) KF on alox were added, and the mixture was stirred at 130° C. for 20 h. At RT, ether and water were added, the phases were separated and the inorganic phase was extracted with ether. The combined organic phases were washed with water and dried over Na2SO4. The residue was triturated in ethanol to yield 25.5 g (84%) 1-(4-Bromo-phenyl)-5-methoxy-1H-indole as light brown solid, mp 90-91° C., MS: 301 (M, 1Br).

reactant | 5-methoxyindole | 0.1 mol, 14.7 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | 1-bromo-4-fluorobenzene | 0.3 mol, 32.6 ml | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 18-crown-6 | 0.04 mol, 1.06 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | KF | 60 mmol, 10.92 g | [F-].[K+]
reactant | 1-bromo-4-fluorobenzene | 0.2 mol, 21.7 ml | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 18-crown-6 | 0.04 mol, 1.06 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | KF | 60 mmol, 10.92 g | [F-].[K+]
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 1-(4-Bromo-phenyl)-5-methoxy-1H-indole | 25.5 g, 84% | BrC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OC | C15H12BrNO
